US07285563B2
N-[1-(Methoxycarbonyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from methyl 5-aminoisoquinoline-1-carboxylate (Description 106) and [4-(trifluoromethyl)benzyl]isocyanate (description 58) according to the procedure of description 61. m/z (ES+) 404 (M+H)+.

reactant | methyl 5-aminoisoquinoline-1-carboxylate | NC1=C2C=CN=C(C2=CC=C1)C(=O)OC | C11H10N2O2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-[1-(Methoxycarbonyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea | COC(=O)C1=NC=CC2=C(C=CC=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C20H16F3N3O3
